US08471005B2
4-Methyl-7-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-4H-benzo[1,4]oxazin-3-one.
The titled compound was prepared in analogous fashion as Example 113 using 2-methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine and 7-amino-4-methyl-4H-benzo[1,4]oxazin-3-one to give 4-methyl-7-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-4H-benzo[1,4]oxazin-3-one as a yellow lyophilate (29.4, 13.3% yield). LCMS (E/I+) 373 (M+H). 1H NMR (400 MHz, CDCl3) δ 9.27 (s, 1H), 8.70 (s, 1H), 8.60 (d, 1H, J=3.8 Hz), 8.37 (d, 1H, J=7.7 Hz), 7.52 (s, 1H), 7.39 (dd, 1H, J=4.6, 7.5 Hz), 7.01 (m, 2H), 6.96 (d, 1H, J=8.4 Hz), 6.79 (s, 1H), 4.5 (s, 2H), 3.2 (s, 3H).

reactant | 2-methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C12H10N4OS
reactant | 7-amino-4-methyl-4H-benzo[1,4]oxazin-3-one | NC1=CC2=C(N(C(CO2)=O)C)C=C1 | C9H10N2O2
product | 4-methyl-7-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-4H-benzo[1,4]oxazin-3-one | CN1C(COC2=C1C=CC(=C2)NC2=NN1C(C=N2)=CC=C1C=1C=NC=CC1)=O | C20H16N6O2
